US04576940
To a suspension of 10 g of 5-hydroxy-1-isopropyl-2-methyl-3-indolecarboxylic acid in 100 ml of ethyl acetate was added 15 ml of pyridine, and then to the mixture was added 10 ml of acetic anhydride. The whole mixture was stirred at room temperature for 3 hours. To the reaction mixture was added 200 ml of ice-cold water. After the mixture was acidified with 10% hydrochloric acid, the precipitated crystals were filtered and washed with water and then ethyl acetate to give 6.4 g of 5-acetoxy-1-isopropyl-2-methyl-3-indolecarboxylic acid. To a suspension of the compound in 100 ml of benzene was added 3 ml of thionyl chloride. After the mixture was refluxed for 3.5 hours, the solvent was distilled off. To the residue was added 50 ml of toluene and the mixture was concentrated. After the excess thionyl chloride was distilled off, the residual oil was dissolved in 100 ml of toluene. To the solution were added 5 g of 4-amino-1-(2-phenylethyl)piperidine and 10 ml of pyridine and the mixture was stirred at room temperature for 4 hours. After the completion of reaction, the crystals were filtered with suction, and washed with water and then ethyl acetate to give 8 g of 5-acetoxy-1-isopropyl-2-methyl-N-(1-(2-phenylethyl)-4-piperidyl)indole-3-carboxamide hydrochloride, melting at 242°-245° C. with decomposition.

reactant | 5-hydroxy-1-isopropyl-2-methyl-3-indolecarboxylic acid | 10 g | OC=1C=C2C(=C(N(C2=CC1)C(C)C)C)C(=O)O | C13H15NO3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-acetoxy-1-isopropyl-2-methyl-3-indolecarboxylic acid | 6.4 g | C(C)(=O)OC=1C=C2C(=C(N(C2=CC1)C(C)C)C)C(=O)O | C15H17NO4
